2100-12-30 06:51:00 Physician Resident Progress Note
Chief Complaint: hypotension, UTI
   24 Hour Events:
   [**12-29**] Events:
   - MAPs maintained on 0.3 Neo
   - d/c flagyl
   - started Tobramycin for better coverage of gram neg UTI
   - will place PICC (and d/c fem line) when blood cxs neg
 RECTAL SWAB - At [**2100-12-30**] 05:15 AM
   MRSA/VRE screen
   Allergies:
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Cipro I.V. (Intraven.) (Ciprofloxacin Lactate)
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-29**] 10:00 AM
   Tobramycin - [**2100-12-29**] 11:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2100-12-30**] 03:30 AM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-30**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 78 (70 - 80) bpm
   BP: 93/52(62) {81/37(48) - 117/68(79)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  5,920 mL
                                                                    666 mL
   PO:
             TF:
   IVF:
                                                                  5,920 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                    908 mL
                                                                    154 mL
   Urine:
                                                                    418 mL
                                                                    154 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,012 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm, Rash: skin breakdown in buttock, healing ulcers on toes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   368 K/uL
   9.5 g/dL
   114 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   29.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2100-12-29**]  04:45 AM
                             [**2100-12-29**]  06:47 PM
                             [**2100-12-30**]  05:10 AM
   WBC
   17.4
   16.3
   Hct
   29.4
   29.9
   Plt
   380
   368
   Cr
   1.5
   1.5
   1.4
   TropT
   0.25
   Glucose
   117
   113
   114
   Other labs: PT / PTT / INR:42.2/42.6/4.6, CK / CKMB /
   Troponin-T:27//0.25, Lactic Acid:1.6 mmol/L, Ca++:7.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 89 y.o. M with systolic CHF (EF 45% in [**9-25**]), s/p MCA CVA,
   afib, HTN, and DM II, who presents from rehab with hypotension and
   respiratory distress.
   .
   # Hypotension: I suspect hypovolemia vs septic shock. He has had very
   poor intake since returning to NH per family. However, presence of
   leukocytosis, low grade fever, and hypotension is concerning for
   sepsis. Most likely source would be urine. He has very psoitive U/A. Of
   note, he has grown numerous unusual organisms from urine in recent past
   - gentle IVF as has known CHF
   - continue neo and goal to wean, very low dose, able to wean some
   yesterday, but required a lot of IVFs
   - goal MAP>65, CVP 10-12, UOP >30 cc/hr
   - continue Vanc/Zosyn and tailor to cx, added tobramycin for better GN
   coverage
   - f/u blood, urine cx - NGTD
   .
   # CHF: EF in [**2099**] 45%. On exam, intravascularly dry, extravascularly
   overloaded
   - gentle IVF, but will be careful of CHF
   - oxygen level appropriate on room air despite being positive 6 L
   yesterday
   - hold on lasix tonight while on pressors, but would have low threshold
   to retart tomorrow
   .
   # UTI: Frequent UTI with unusual organsisms. He has large bladder
   divertic with possible fungus ball in bladder and chronic foley
   - treatment as above with triple abx
   - foley changed in ED
   - followed by Dr. [**Last Name (STitle) **] in urology, called urology today for eval,
   will f/u recs
 possible suprapubic cath
   .
   # Pain
 seems to be from scrotal edema, although unable to pinpoint
   exact cause
   - low dose morphine for pain control
   - elevate scrotum for comfort
   .
   # Leukocytosis: Infection w/u as above. Of note, during last admission,
   he was started empirically on Metronidazole on [**12-15**]; however, C. diff
   negative on [**12-16**]
   - flagyl d/c
   - f/u blood, urine, stool cx
   .
   # Elevated Troponin: Suspect some trop leak from heart failure in
   addition to acute renal failure and decreased clearance. EKG paced, pt
   asymptomatic.
   - ruled out bye CEs
   - repeat EKG in AM
   .
   # ARF: Baseline 1.2, now 1.4 which is trending downward
 most likely
   prerenal azotemia
   - gentle IVFs overnight
   - check urine lytes to calc FEUrea
   .
   # Hypernatremia: 148 on admission to 143; resolved with free water
   replacement
   - cont to monitor
   .
   # Alkalosis: seen on ABG 7.47/39/211, suspect contraction alkalosis
   from insensible losses
   .
   # Venous clots: He has non-occlusive thrombus within the left cephalic
   vein felt to be [**12-20**] PICC line and stable. He also has hx R DVT s/p IVC
   filter
   -supratherapeutic, holding coumadin
   - possible FFP today if patient needs it for PICC line placement
   tomorrow
   .
   # Atrial fibrillation:
   - hold metoprolol tonight while on pressors
   - hold coumadin as supratherapeutic and on antibiotics
   - would restart coumadin when INR less than 2.5
   .
   # Hypertension:
   - hold on home BB and ACEi tonight but restart once off pressors and
   stable as he will benefit from afterload reduction
   .
   # Type 2 Diabetes:
   - continue HISS
   .
   # Anemia: Hct at baseline (28-30); likely ACD; however macrocytosis and
   last B12/folate over 1 year ago
   - check iron, B12/folate
   - transfuse Hct<21
   .
   # L heel stage II pressure ulcer:  Wound care consulted at recent
   admission
   - Pressure relief per pressure ulcer guidelines
   - Support surface -Atmos Air
   - Turn and reposition every 1-2 hours and prn
   - Heels off bed surface at all times
   - Multipodis Splints to B/L LE's
   - Moisturize B/L LE's  with [**Last Name (un) **] Cream
   - Leave Heels open to air.
   - Place ABD or under scrotom and on sides to prevent friction and
   elevate scrotum.
   .
   # Sacral/Buttock Rash: He has healing unstageable ulcers and a large
   area of macular erythema over entire buttock and lower back
   - continue to monitor, possibly cellulitis, although does not appear to
   be spreading
 blanches, likely stage I not active infection
   - would care consult
   .
   # FEN: Low albumin 1.7 due to chronic malnutrition.
   - NPO
 was choking with trial of foods with nurse today
   - need to discuss long term nutrition plans with family, may need PEG
   for nutrition, as likely not able to keep fluid intravascularly due to
   his low albumin
   .
   # PPX:
   - Supratherapuetic INR effective as DVT prophylaxis
   - No bowel regimen in the setting of diarrhea
   - Strict aspiration precautions
   - Mouthcare q6 hours
   - PPI
   .
   # ACCESS
   - fem line
   .
   # CODE: FULL, discussing with family today
   # CONTACT: [**Name (NI) **] [**Name (NI) **], [**Telephone/Fax (1) 8018**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2100-12-29**] 01:48 AM
   22 Gauge - [**2100-12-29**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-01-01 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-31**] Events:
   - discussion with son, decided to make DNR/DNI
   - are going to feed him for comfort, no PEG/TPN at this time
   - weaned off pressors, maintaining BPs
   Allergies:
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Cipro I.V. (Intraven.) (Ciprofloxacin Lactate)
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-31**] 09:00 AM
   Tobramycin - [**2101-1-1**] 12:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2101-1-1**] 05:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2100-12-31**] 10:05 PM
   Morphine Sulfate - [**2101-1-1**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-1-1**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 89 (68 - 89) bpm
   BP: 114/68(80) {86/47(57) - 124/68(80)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 80 kg
   Height: 69 Inch
             Total In:
                                                                    941 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                    941 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    150 mL
   Urine:
                                                                    610 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    331 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm, Rash: skin breakdown in buttock, healing ulcers on toes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   303 K/uL
   9.7 g/dL
   74 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   112 mEq/L
   144 mEq/L
   30.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2100-12-29**]  04:45 AM
                             [**2100-12-29**]  06:47 PM
                             [**2100-12-30**]  05:10 AM
                             [**2100-12-31**]  04:00 AM
                             [**2101-1-1**]  05:22 AM
   WBC
   17.4
   16.3
   11.9
   14.6
   Hct
   29.4
   29.9
   27.8
   30.2
   Plt
   [**Telephone/Fax (3) 8063**]03
   Cr
   1.5
   1.5
   1.4
   1.4
   TropT
   0.25
   Glucose
   117
   113
   114
   74
   Other labs: PT / PTT / INR:44.7/44.9/5.0, CK / CKMB /
   Troponin-T:27//0.25, ALT / AST:[**11-9**], Alk Phos / T Bili:121/0.2,
   Amylase / Lipase:18/8, Lactic Acid:1.6 mmol/L, Albumin:1.6 g/dL,
   Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 89 y.o. M with systolic CHF (EF 45% in [**9-25**]), s/p MCA CVA,
   afib, HTN, and DM II, who presents from rehab with hypotension and
   respiratory distress.
   .
   # Hypotension: hypovolemia vs septic shock. He has had very poor intake
   since returning to NH per family. However, presence of leukocytosis,
   low grade fever, and hypotension is concerning for sepsis. Most likely
   source would be urine. He has very psoitive U/A. Of note, he has grown
   numerous unusual organisms from urine in recent past
   - continues to be on low dose neo, will try to wean today
   - IVF boluses as needed as he had poor Po intake and respiratory status
   is stable
   - goal MAP>65, CVP 10-12, UOP >30 cc/hr
   - continue Vanc/Zosyn and tobra for UTI coverage
   - f/u blood
 NGTD
   - urine with >100,000 GNR, no speciation yet
   .
   # UTI: Frequent UTI with unusual organsisms. He has large bladder
   divertic with possible fungus ball in bladder and chronic foley
   - treatment as above with triple abx
   - foley changed in ED
   - urology followed, no change in management at this time,do not think
   suprapubic catheter or CBI is warranted
   .
   # Nutrition
 has been NPO since arrival due to aspiration risk, need
   to discuss with family the options for feeding. Long term care would
   likely require a PEG as his albumin is 1.6 and he has such poor ability
   to keep fluid intravascularly.  If not, consider TPN with eating for
   comfort with known risk of aspiration
   - family talk
   .
   # Pain
 seems to be from scrotal edema, although unable to pinpoint
   exact cause
   - low dose morphine for pain control, is much more comfortable and
   talkative today
   - elevate scrotum for comfort
   .
   # Leukocytosis: Infection w/u as above. Of note, during last admission,
   he was started empirically on Metronidazole on [**12-15**]; however, C. diff
   negative on [**12-16**]
   - flagyl d/c
   - likely from UTI
   .
   # CHF: EF in [**2099**] 45%. On exam, intravascularly dry, extravascularly
   overloaded
   - gentle IVF, but will be careful of CHF
   - oxygen level appropriate on room air despite being positive 6 L
   yesterday
   - hold on lasix tonight while on pressors, but would have low threshold
   to retart if respiratory status changes
   .
   # Elevated Troponin: Suspect some trop leak from heart failure in
   addition to acute renal failure and decreased clearance. EKG paced, pt
   asymptomatic.
   - ruled out bye CEs
   - stable
   .
   # ARF: Baseline 1.2, now 1.4 which is trending downward
 most likely
   prerenal azotemia
   - stable, will continue to follow
   .
   # Hypernatremia: 148 on admission to 143; resolved with free water
   replacement
   - cont to monitor
   .
   # Venous clots: He has non-occlusive thrombus within the left cephalic
   vein felt to be [**12-20**] PICC line and stable. He also has hx R DVT s/p IVC
   filter
   -supratherapeutic, holding coumadin
   - continuing to rise, will hold and reverse only if bleeding
   - possible FFP today if patient needs it for PICC line placement
   tomorrow
   .
   # Atrial fibrillation:
   - hold metoprolol tonight while on pressors
   - hold coumadin as supratherapeutic and on antibiotics
   - would restart coumadin when INR less than 2.5
   .
   # Hypertension:
   - hold on home BB and ACEi tonight but restart once off pressors and
   stable as he will benefit from afterload reduction
   .
   # Type 2 Diabetes:
   - continue HISS
   .
   # Anemia: Hct at baseline (28-30); likely ACD; however macrocytosis and
   last B12/folate over 1 year ago
   - check iron, B12/folate
   - transfuse Hct<21
   .
   # L heel stage II pressure ulcer:  Wound care consulted at recent
   admission
   - Pressure relief per pressure ulcer guidelines
   - Support surface -Atmos Air
   - Turn and reposition every 1-2 hours and prn
   - Heels off bed surface at all times
   - Multipodis Splints to B/L LE's
   - Moisturize B/L LE's  with [**Last Name (un) **] Cream
   - Leave Heels open to air.
   - Place ABD or under scrotom and on sides to prevent friction and
   elevate scrotum.
   .
   # Sacral/Buttock Rash: He has healing unstageable ulcers and a large
   area of macular erythema over entire buttock and lower back
   - continue to monitor, possibly cellulitis, although does not appear to
   be spreading
 blanches, likely stage I not active infection
   - would care consult following patient
   .
   # FEN: Low albumin 1.7 due to chronic malnutrition.
   - NPO
 was choking with trial of foods with nurse today
   - see above for nutrition plans
   .
   # PPX:
   - Supratherapuetic INR effective as DVT prophylaxis
   - No bowel regimen in the setting of diarrhea
   - Strict aspiration precautions
   - Mouthcare q6 hours
   - PPI
   .
   # ACCESS
   - fem line
   .
   # CODE: FULL, discussing with family today
   # CONTACT: [**Name (NI) **] [**Name (NI) **], [**Telephone/Fax (1) 8018**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2100-12-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: